US07989442B2
l. (−)-(cis)-N-(7-cyano-8,12-difluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide
A mixture of 2.74 g (5.74 mmol) of (−)-(cis)-N-(7-bromo-8,12-difluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide, CuCN (1.3 g, 14.3 mmol), CuI (0.123 g, 0.57 mmol) and NMP (25 mL) was stirred in a microwave for 20 min. at 180° C., 300 Watt with cooling. After cooling down, the reaction mixture was poured into water (500 mL). The precipitate, containing product and salts, was redissolved in ethyl acetate and the salts were filtered off. The organic layer was washed with NH4OH-solution, water, and brine, dried, and concentrated to give the crude compound which was crystallized to give the title compound (1.45 g, 59%). 1H-NMR (400 MHz, DMSO) 1.60-1.86 (m, 3H), 2.01 (m, 1H), 3.15 (m, 1H), 3.86 (m, 1H), 4.133 (d, J=10.0, 1H), 4.35 (m, 1H), 7.00 (m, 1H), 7.03 (m, 1H), 7.44 (d, J=7.7, 1H), 7.6 (d, J=6.3, 1H), 9.23 (br-d, J=7.8, 1H). (m/z)=424 (M+H)+.

reactant | (−)-(cis)-N-(7-bromo-8,12-difluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide | 5.74 mmol, 2.74 g | BrC1=CC2=C(OC3=C([C@@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC(=C3)F)C=C1F | C19H14BrF5N2O2
reactant | CuCN | 14.3 mmol, 1.3 g | C(#N)[Cu]
reactant | NMP | 25 mL | CN1CCCC1=O | C5H9NO
reactant | water | 500 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | CuI | 0.57 mmol, 0.123 g | [Cu]I
product | (−)-(cis)-N-(7-cyano-8,12-difluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide | 1.45 g, 59% | C(#N)C1=CC2=C(OC3=C([C@@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC(=C3)F)C=C1F | C20H14F5N3O2
